US07960369B2
4-isopropyl-N-(3-methylbutyl)-1,3-thiazol-2-amine
A solution of 3-methyl-2-butanone (2.64 g) in methanol (30 ml) was cooled to −30° C. bromine (4.8 g) was added, and heated to room temperature with stirring. To the obtained colorless solution were added N-(3-methylbutyl)thiourea (2.92 g) and sodium acetate (2.40 g) and the mixture was stirred with heating under reflux for 2 hrs. The reaction mixture was concentrated, diluted with ethyl acetate and washed with water. The ethyl acetate layer was concentrated, and the residue was purified by silica gel column chromatography with ethyl acetate-hexane (gradient of 1:9 to 2:1 by volume ratio) to give the title compound (0.90 g, yield 21%) as a yellow oil.

reactant | 3-methyl-2-butanone | 2.64 g | CC(C(C)=O)C | C5H10O
reactant | bromine | 4.8 g | BrBr | Br2
reactant | N-(3-methylbutyl)thiourea | 2.92 g | CC(CCNC(=S)N)C | C6H14N2S
reactant | sodium acetate | 2.40 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-isopropyl-N-(3-methylbutyl)-1,3-thiazol-2-amine | 0.90 g, yield 21% | C(C)(C)C=1N=C(SC1)NCCC(C)C | C11H20N2S
